US06610701B2
A solution of 2-cyano-benzimidic acid ethyl ester hydrochloride (43 g, 0.20 mol) and 2,2-diethoxy-ethylamine (30 ml, 0.21 mol) in methanol (430 ml) was aged at room temperature for 1 h. The reaction mixture was concentrated to remove methanol and conc. sulfuric acid (110 ml) was added. After heating on a steam bath for 1.5 h, the reaction mixture was diluted with water (700 ml) and extracted with chloroform. The aqueous phase was made strongly basic with sodium hydroxide and extracted with chloroform. Hydrochloric acid (12N) was added to give pH 3-4, tar was filtered and the filtrate was concentrated. The resultant brown solid was sublimed at 200-220° C. The purified solid was dissolved in hydrochloric acid solution (6N, 110 ml), byproducts filtered and the filtrate concentrated. The residue was diluted with ethanol (100-120 ml) containing hydrochloric acid (12N, 1 ml), boiled briefly and filtered. Further concentration and cooling of the filtrate gave 2-(1H-imidazol-2-yl)-benzonitrile hydrochloride (1.5 g). The filtrate was concentrated further and diluted with acetone. Filtration gave 2-(1H-imidazol-2-yl)-benzoic acid hydrochloride (7.3 g). Dilution of the filtrate with acetone and filtration of the resultant solid gave additional 2-(1H-imidazol-2-yl)-benzonitrile hydrochloride; mp 200-204° C.; IR 4.5μ.

reactant | 2-cyano-benzimidic acid ethyl ester hydrochloride | 0.20 mol, 43 g | Cl.C(C)OC(C1=C(C=CC=C1)C#N)=N
reactant | 2,2-diethoxy-ethylamine | 0.21 mol, 30 ml | C(C)OC(CN)OCC | C6H15NO2
solvent | methanol | 430 ml | CO | CH4O
product | 2-(1H-imidazol-2-yl)-benzonitrile hydrochloride | 1.5 g | Cl.N1C(=NC=C1)C1=C(C#N)C=CC=C1 | InChI=1S/C10H7N3.ClH/c11-7-8-3-1-2-4-9(8)10-12-5-6-13-10;/h1-6H,(H,12,13);1H
